US05234946
15.0 g of m-hydroxybenzaldehyde was dissolved in 200 ml of ethanol, and 25.0 g of potassium carbonate and 32 g of benzyl bromide were added. With stirring, the mixture was heated under reflux for 6 hours. After the reaction, the insoluble inorganic salts were removed by filtration. The filtrate was evaporated under reduced pressure, and purified by silica gel column chromatography [Wakogel C-200, 150 g; hexane/chloroform=1/1] and then recrystallized from hexane to give 21.1 g (yield 81.1%) of 3-benzyloxybenzaldehyde having a melting point of 56° to 57° C.

reactant | potassium carbonate | 25.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | benzyl bromide | 32 g | C(C1=CC=CC=C1)Br | C7H7Br
reactant | ethanol | 200 ml | C(C)O | C2H6O
product | 3-benzyloxybenzaldehyde | 21.1 g, yield 81.1% | C(C1=CC=CC=C1)OC=1C=C(C=O)C=CC1 | C14H12O2
